US06544985B2
[2-Amino-5-(methyl-propyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [5-(methyl-propyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example C32) (3.78 g, 10.0 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a red oil (3.40 g, 98%).

reactant | [5-(methyl-propyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 10.0 mmol, 3.78 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C(F)(F)F)[N+](=O)[O-])=O | C16H22F3N3O4
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-5-(methyl-propyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C(F)(F)F)N)=O | C16H24F3N3O2
